US04670604
96.5 g (0.266 mole) of 1,3-dimethoxy-2-(1-hydroxy-2,2-dichloro-3,3,3-trifluoro-propyl)-benzene are dissolved in 1,000 ml of ethanol in a 1.5 l sulfonating flask with a thermometer, condenser and bubble counter, and 30 g (0.56 mole) of ammonium chloride are added. Zinc activated according to Fieser & Fieser (36.9 g=0.564 mole) is added in portions to the resulting brownish suspension, the reaction temperature rising to 42°. Stirring is continued overnight and the grey-yellow reaction mixture is then poured onto ice-water and extracted with ether and the extract is washed with water (3×) and brine, dried over magnesium sulfate and evaporated. 1,3-Dimethoxy-2-(2-chloro-3,3,3-trifluoroprop-1-enyl)-benzene (yield: 94%) is obtained as a reddish oil.

reactant | 1,3-dimethoxy-2-(1-hydroxy-2,2-dichloro-3,3,3-trifluoro-propyl)-benzene | 0.266 mole, 96.5 g | COC1=C(C(=CC=C1)OC)C(C(C(F)(F)F)(Cl)Cl)O | C11H11Cl2F3O3
reactant | ammonium chloride | 0.56 mole, 30 g | [Cl-].[NH4+]
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
catalyst | Zinc | [Zn] | Zn
product | 1,3-Dimethoxy-2-(2-chloro-3,3,3-trifluoroprop-1-enyl)-benzene | yield: 94% | COC1=C(C(=CC=C1)OC)C=C(C(F)(F)F)Cl | C11H10ClF3O2
